US05026702
2-(6-Chloro-pyridin-2-yl)-morpholin-5-one
6 g (0.0347 mol) of 2-hydroxy-2-(2-chloro-pyridin-6-yl)-ethanamine are dissolved in 160 ml of absolute toluene and mixed with 2.2 g (0.047 mol) of 50% sodium hydride in oil and stirred for 40 minutes at ambient temperature. Then 4.16 g (0.034 mol) of ethyl chloroacetate are added dropwise. The reaction mixture is stirred for 18 hours at ambient temperature and then carefully mixed with 10 ml of ethanol and 30 ml of water and subsequently acidified with dilute hydrochloric acid. The reaction solution is made alkaline with ammonia and extracted with methylene chloride. The organic phase is dried over sodium sulphate, concentrated by evaporation and the residue is purified over a silica gel column using ethyl acetate as eluant.

reactant | 2-hydroxy-2-(2-chloro-pyridin-6-yl)-ethanamine | 0.0347 mol, 6 g | OC(CN)C1=CC=CC(=N1)Cl | C7H9ClN2O
reactant | sodium hydride | 0.047 mol, 2.2 g | [H-].[Na+]
reactant | ethyl chloroacetate | 0.034 mol, 4.16 g | ClCC(=O)OCC | C4H7ClO2
reactant | hydrochloric acid | Cl | ClH
reactant | ammonia | N | H3N
solvent | toluene | 160 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 30 ml | O | H2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-(6-Chloro-pyridin-2-yl)-morpholin-5-one | ClC1=CC=CC(=N1)C1CNC(CO1)=O | C9H9ClN2O2
